US05635510
3.3A.1 Synthesis of 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide hydrochloride
1-[2-[3-(3,4-Dichloro-phenyl)-1-(3,4,5-trimethoxybenzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide (4.13 g, 6.45 mmol) was dissolved in dichloromethane (20 mL) and treated with a solution of dichloromethane saturated with HCl(g) (20 mL). The solution was allowed to stir for 1 h. The solution was concentrated in vacuo to obtain a residue. The residue was dried under high vacuum at 56° C. for 18 h to give the title compound:

reactant | 1-[2-[3-(3,4-Dichloro-phenyl)-1-(3,4,5-trimethoxybenzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide | 6.45 mmol, 4.13 g | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | C34H39Cl2N3O5
reactant | HCl | 20 mL | Cl | ClH
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,4,5-trimethoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)OC)OC)OC)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | InChI=1S/C34H39Cl2N3O5.ClH/c1-42-28-19-23(20-29(43-2)30(28)44-3)31(40)39-18-12-33(22-39,25-9-10-26(35)27(36)21-25)11-15-38-16-13-34(14-17-38,32(37)41)24-7-5-4-6-8-24;/h4-10,19-21H,11-18,22H2,1-3H3,(H2,37,41);1H
